US07723523B2
187. (E)-N-[3-Cyano-6-(2-hydroxy-ethanoyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridin-2-yl]-3-phenyl-acrylamide
1 mmol of acetic acid 2-[3-cyano-2-((E)-3-phenyl-allanoylamino)-4,7-dihydro-5H-thieno[2,3-c]pyridin-6-yl]-2-oxo-ethyl ester are stirred in 5 ml methanol and 1 ml 45% aqueous NaOH until the reaction is completed. Purification according to the previous preparation affords the desired compound.

reactant | acetic acid 2-[3-cyano-2-((E)-3-phenyl-allanoylamino)-4,7-dihydro-5H-thieno[2,3-c]pyridin-6-yl]-2-oxo-ethyl ester | 1 mmol | C(#N)C1=C(SC=2CN(CCC21)C(COC(C)=O)=O)NC(\C=C\C2=CC=CC=C2)=O | C21H19N3O4S
reactant | NaOH | 1 ml | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | (E)-N-[3-Cyano-6-(2-hydroxy-ethanoyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridin-2-yl]-3-phenyl-acrylamide | C(#N)C1=C(SC=2CN(CCC21)C(CO)=O)NC(\C=C\C2=CC=CC=C2)=O | C19H17N3O3S
